US06573377B1
(1) 2-(4-Fluoro-2-nitrophenoxy)-1,1-dimethoxyethane
A DMF solution (50 ml) of 16.7 g of 2,2-dimethoxyethanol was added to dry DMF (60 ml) suspension of 4.32 g of sodium hydride at room temperature over 20 minutes. After 1 hour of stirring at room temperature, the reaction solution was cooled to 0° C., mixed with a DMF (20 ml) solution of 23.9 g of 2,5-difluoronitrobenzene and then stirred at 0° C. for 1 hour. The reaction solution was poured into 700 ml of ice water and extracted twice with a hexane-ethyl acetate (9:1) mixed solvent. The organic layer was washed with water and saturated brine in that order and dried with anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure to obtain 35.88 g of the title compound as a light red oil.

reactant | 2,2-dimethoxyethanol | 16.7 g | COC(CO)OC | C4H10O3
reactant | sodium hydride | 4.32 g | [H-].[Na+]
reactant | 2,5-difluoronitrobenzene | 23.9 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(4-Fluoro-2-nitrophenoxy)-1,1-dimethoxyethane | 35.88 g | FC1=CC(=C(OCC(OC)OC)C=C1)[N+](=O)[O-] | C10H12FNO5
